US06720336B2
To a solution of 4-[1-Benzyl-4-(3-hydroxy-phenyl)-piperidin-4-yl]-N,N-diethyl-benzamide in CH2Cl2 (14 mL) at 0° C. was added pyridine (0.43 mL, 5.33 mmol) followed by dropwise addition of triflic anhydride (0.9 mL, 5.33 mmol) over 5 minutes. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours. The solution was then cooled to 0° C. and 15 mL of cold saturated aqueous NaHCO3 were added. The organic layer was separated and the aqueous layer was washed with CH2Cl2 (3×20 mL). The combined organic layers were dried (MgSO4) and concentrated. The crude residue was purified by flash chromatography with hexanes/EtOAc (4:1) to afford 1.57 g (77% yield) of trifluoro-methanesulfonic acid 3-[1-benzyl-4-(4-diethylcarbamoyl-phenyl)-piperidin-4-yl]-phenyl ester. 1HNMR (400 MHz, CDCl3) δ 7.42-7.20 (comp, 11H), 7.15-7.02 (comp, 2H), 3.63-3.43 (comp, 2H), 3.42 (s, 2H), 3.35-3.29 (comp, 2H), 2.8-2.39 (comp, 8H), 1.31-1.21 (comp, 3H), 1.21-1.08 (comp, 3H); MS (M+1) 575.2.

reactant | 4-[1-Benzyl-4-(3-hydroxy-phenyl)-piperidin-4-yl]-N,N-diethyl-benzamide | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1 | C29H34N2O2
reactant | pyridine | 5.33 mmol, 0.43 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 5.33 mmol, 0.9 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 3-[1-benzyl-4-(4-diethylcarbamoyl-phenyl)-piperidin-4-yl]-phenyl ester | 1.57 g, 77% yield | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=C(C=C1)C(N(CC)CC)=O)C=1C=C(C=CC1)OS(=O)(=O)C(F)(F)F | C30H33F3N2O4S
